US04892872
To 99 g of 3,4-dihydro-4-methyl-6-nitro-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid is added portionwise 285 ml of thionyl chloride at room temperature, and the system heated with reflux for about an hour. After the resultant solution is dried under reduced pressure, to the residue is distilled off under reduced pressure. To the residue is added 200 ml of benzene to make the crystals finely particulate. After collecting by filtration, the crystals are washed with benzene and dried to give 103 g of 3,4-dihydro-4-methyl-6-nitro-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid chloride.

reactant | 3,4-dihydro-4-methyl-6-nitro-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid | 99 g | CN1C(COC2=C1C=C(C=C2C(=O)O)[N+](=O)[O-])=O | C10H8N2O6
reactant | thionyl chloride | 285 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,4-dihydro-4-methyl-6-nitro-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid chloride | 103 g | CN1C(COC2=C1C=C(C=C2C(=O)Cl)[N+](=O)[O-])=O | C10H7ClN2O5
